US05364844
15(a) (2S, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N,N-dimethylhexanamide
A procedure similar to that described in Example 9(a) was repeated, except that 152 mg of (2S, 4S, 5S)- 5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N,N-dimethylhexanamide (prepared as described in Preparation 25) were used instead of the (2S, 4S, 5S)-5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-methylhexanamide, and that 109 mg (0.4 mmoles) of N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine, 0.23 ml (1.66 mmoles) of triethylamine, and 0.064 ml (0.4 mmoles) of diethyl cyanophosphate were also used, to obtain 150 mg of the title compound as a white amorphous substance.

reactant | (2S, 4S, 5S)- 5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N,N-dimethylhexanamide | 152 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)N(C)C)C(C)(C)O)O)CC1CCCCC1 | C22H42N2O5
reactant | (2S, 4S, 5S)-5-(t-butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-methylhexanamide | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NC)C(C)(C)O)O)CC1CCCCC1 | C21H40N2O5
reactant | N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine | 0.4 mmoles, 109 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)O | C11H16N2O4S
reactant | triethylamine | 1.66 mmoles, 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphate | 0.4 mmoles, 0.064 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
product | (2S, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N,N-dimethylhexanamide | 150 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@H]([C@H](C[C@H](C(=O)N(C)C)C(C)(C)O)O)CC1CCCCC1 | C28H48N4O6S
